US07964726B2
3-methoxy-N-[2-(1H-pyrrolo[2,3-b]pyridin-3-yl)ethyl]benzamide
To a mixed solution of [2-(1H-pyrrolo[2,3-b]pyridin-3-yl)ethyl]amine (580 mg) and 3-methoxybenzoic acid (658 mg) in tetrahydrofuran (5 mL) and N,N-dimethylformamide (3 mL), 1-hydroxy-7-azabenzotriazole (HOAt) (588 mg) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (EDC) hydrochloride (826 mg) were added, followed by stirring at room temperature until materials disappear. To the reaction mixture, ice water and an aqueous saturated sodium hydrogen carbonate solution were sequentially added and then extracted with ethyl acetate. The organic layer was washed with saturated saline, dried over anhydrous sodium sulfate and then concentrated. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=2:8) to obtain the titled compound having the following physical properties (612 mg).

reactant | [2-(1H-pyrrolo[2,3-b]pyridin-3-yl)ethyl]amine | 580 mg | N1C=C(C=2C1=NC=CC2)CCN | C9H11N3
reactant | 3-methoxybenzoic acid | 658 mg | COC=1C=C(C(=O)O)C=CC1 | C8H8O3
reactant | 1-hydroxy-7-azabenzotriazole | 588 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 826 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 3-methoxy-N-[2-(1H-pyrrolo[2,3-b]pyridin-3-yl)ethyl]benzamide | COC=1C=C(C(=O)NCCC2=CNC3=NC=CC=C32)C=CC1 | C17H17N3O2
